US03965257
4'-tert-Butyl-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino] butyrophenone hydrochloride
A mixture of 107 g (0.4 mole) of α,α -diphenyl-4-piperidinemethanol, 105 g (0.44 mole) of 4' -tert-butyl-4-chlorobutyrophenone, 70 g (0.7 mole) of potassium bicarbonate, and a small amount of potassium iodide in 600 ml of toluene was refluxed and stirred for 21/2 days then filtered. The filtrate was treated with charcoal, filtered through celite then treated with ethereal HCl. The resulting solid was recrystallized from methanol and isopropyl alcohol to give the desired product, M.P. 234°-235° C.

reactant | α,α -diphenyl-4-piperidinemethanol | 0.4 mole, 107 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4' -tert-butyl-4-chlorobutyrophenone | 0.44 mole, 105 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C14H19ClO
reactant | potassium bicarbonate | 0.7 mole, 70 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | [I-].[K+]
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-tert-Butyl-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino] butyrophenone hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C32H39NO2.ClH/c1-31(2,3)26-18-16-25(17-19-26)30(34)15-10-22-33-23-20-29(21-24-33)32(35,27-11-6-4-7-12-27)28-13-8-5-9-14-28;/h4-9,11-14,16-19,29,35H,10,15,20-24H2,1-3H3;1H
